Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Difficulty with speech, gait disturbance 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ yo man with a
history of severe neurocognitive impairment ___ Alzheimer's
disease, prostate cancer and compression fractures of L3 and T11
who presents to the ED with acute gait changes and speech
difficulty concerning for stroke.

Per patient he is here because "I fell a few weeks ago and I 
feel
just fine!" On review of documentation, however, patient was
brought in by son-in-law after noting acute change. Patient was
last seen at 1600 in his normal state.  At 1800, patient's 
family
called and he did not respond.  The patient and family went
upstairs to check on him and he was found on the couch listing 
to
the right.  He had difficulty standing from sitting on the couch
when asked. He also appeared to be more confused, slurring his
words.  EMS was called.

Patient was brought in by ambulance; code stroke was activated
prior to patient's arrival. On arrival to the ED, vital signs
notable for T-max of 100.5, normal heart rate, peak SBP of 160. 
Patient satting 100% on room air.  Labs notable for WBC 10.8
N%82.1, TropT < 0.01, ALT 41, Mg 1.8. UDS and serum tox 
negative.
Lactate 2.8-> 1.7 after 1 L IVF. CXR showed no acute
cardiopulmonary process. CTA head and neck showed no evidence of
hemorrhage, large territorial infarction, or mass. Incidentally
this did show a patulous, fluid-filled esophagus with
ground-glass opacities in the partially visualized upper lobes,
'raising concern for possible aspiration.' Patient given 1 L 
IVF,
CTX/Flagyl.  Patient evaluated by code stroke neurology team.
Found to have an initial ___ stroke scale score of 2 for
dysarthria and mild aphasia (mostly difficulty naming items on
the stroke card as well as difficulty communicating his 
symptoms,
though the latter was felt to be at his baseline after 
discussion
with son in law). Thought last known normal was recent, given
'rapidly improving symptoms and low NIHSS,' neurology discussed
tPA with patient's son in law, and risks of tPA were felt to
outweigh benefits.

Patient was admitted to the medicine service for further
management of possible infection.

On arrival to the floor, patient reports feeling well overall 
and
that "there is nothing wrong with me".  He denies current 
fevers,
chills, shortness of breath, cough, sputum production, 
difficulty
urinating, pain on urination, diarrhea,  paresthesia, new
weakness.
 
Past Medical History:
Major Neurocognitive Disorder ___ Alzheimer's disease
Vertebral Compression Fracture (T11, L3)
Falls
Gait Instability
Weight Loss
History of Prostate Cancer
 
Social History:
___
Family History:
Notable for lack of dementia or ___ in
either of his parents. 1 sister with cognitive impairment before
she died. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VS: Temp 99.0 BP 152 / 72 HR 6616 SaO2 95%Ra
GENERAL: Thin, well-appearing man in no distress lying
comfortably in bed. Oriented to self, thinks he is at ___ and that it is ___
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Neuro: 
Facial sensation intact to light touch.  No facial droop. 
Hearing intact to finger rub bilaterally.  5 out of 5 strength 
in
trapezii and
sternocleidomastoids bilaterally.  ___ strength UEs, ___. 2+ brachial and patellar reflexes. Gait exam
deferred
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
======================
VS: 24 HR Data (last updated ___ @ 948)
    Temp: 99.1 (Tm 99.1), BP: 131/67 (131-152/67-72), HR: 63
(63-66), RR: 18 (___), O2 sat: 96% (95-96), O2 delivery: RA,
Wt: 138.45 lb/62.8 kg  
GENERAL: Thin, well-appearing man in no distress lying
comfortably in bed. Oriented to self, location. Cannot name 
year.
HEENT: AT/NC, anicteric sclera, MMM. 
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Facial sensation intact to light touch.  R pupil slightly
larger than L. Mild rightward tongue deviation, facial droop.
Hearing intact to finger rub bilaterally.  5 out of 5 strength 
in
trapezii and sternocleidomastoids bilaterally.  ___ strength 
UEs,
___. 2+ brachial and patellar reflexes. Gait exam
deferred
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
=============
___ 07:20PM BLOOD WBC-10.8* RBC-4.26* Hgb-12.5* Hct-37.9* 
MCV-89 MCH-29.3 MCHC-33.0 RDW-14.4 RDWSD-46.7* Plt ___
___ 07:20PM BLOOD Neuts-82.1* Lymphs-7.0* Monos-7.3 Eos-2.6 
Baso-0.6 Im ___ AbsNeut-8.85* AbsLymp-0.75* AbsMono-0.79 
AbsEos-0.28 AbsBaso-0.07
___ 07:20PM BLOOD Glucose-106* UreaN-20 Creat-0.9 Na-141 
K-5.4 Cl-102 HCO3-26 AnGap-13
___ 07:20PM BLOOD ALT-41* AST-31 AlkPhos-76 TotBili-0.4
___ 07:20PM BLOOD Albumin-4.4 Calcium-9.2 Phos-3.4 Mg-1.8
___ 07:20PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:34PM BLOOD Glucose-104 Na-141 K-4.4 Cl-101 
calHCO3-27

DISCHARGE LABS
=============
___ 05:56AM BLOOD WBC-8.9 RBC-3.95* Hgb-11.4* Hct-35.1* 
MCV-89 MCH-28.9 MCHC-32.5 RDW-14.1 RDWSD-45.8 Plt ___
___ 05:56AM BLOOD Glucose-96 UreaN-13 Creat-0.8 Na-141 
K-4.1 Cl-104 HCO3-26 AnGap-11

IMAGING STUDIES
==============
NONCONTRAST HEAD CT:
No evidence of hemorrhage, large territorial infarction, or 
mass. There is
prominence of the ventricles and sulci, compatible with 
involutional changes.
Periventricular and subcortical hypodensities are nonspecific, 
though likely
reflect the sequela of chronic small vessel ischemic disease.
 
CTA HEAD AND NECK:
There is no evidence of occlusion, dissection, flow-limiting 
stenosis, or
aneurysm greater than 3 mm identified in the great vessels of 
the head or
neck. There is atherosclerotic calcification of the bilateral 
carotid
siphons. There is mild calcification at the origin of the right 
vertebral
artery. There is a fluid filled, patulous esophagus with 
ground-glass
opacities in the partially visualized upper lobes, raising 
concern for
possible aspiration.
 
Final read pending 3D reformats.

MICROBIOLOGY
=============
Blood cultures ___ - NGTD
Urine culture ___ - no growth
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with a history of severe neurocognitive 
impairment ___ Alzheimer's disease, prostate cancer and 
compression fractures of L3 and T11 who presented to the ED with 
acute gait changes and speech difficulty concerning for stroke 
and was found to have radiographic signs concerning for 
aspiration.

ACUTE ISSUES:
===============
# TIA
Patient presented after family found him with aphasia and 
listing to the right. He was evaluated by the stroke neurology 
team and had an ___ stroke scale of 2. Head imaging, including 
CTA, did not show any acute hemorrhage or infarction. Upon 
consultation with the patient's family and stroke neurology, 
acute intervention including tPA or thrombectomy was deferred as 
it was felt his deficits were very minimal and the risks 
outweighed the benefits. His neurologic exam remained overall 
stable, and he was discharged later that day. He was started on 
81 mg of ASA for secondary prevention of stroke. 

# Lung ground glass opacities
CTA of the head had incidental findings of ground glass 
opacities in the upper lung fields bilaterally. His son-in-law 
reported a dry cough that had been present for 1 day prior to 
admission. He was given ceftriaxone and flagyl in the ED to 
cover for aspiration, however in the absence of fevers, 
productive cough, or leukocytosis ongoing treatment was 
deferred, Nursing bedside swallow evaluation was without 
concern.

CHRONIC ISSUES:
===============
# CAD. Continued home atorvastatin 20 mg QHS
# Depression. Continued home mirtazapine
# Alzheimer's Disease with severe neurocognitive deficits - 
Continued home donepazil 5 mg daily

TRANSITIONAL ISSUES:
====================
[ ] Started on ASA 81mg given atherosclerosis seen on imaging 
iso TIA
[ ] Cognitive neurology - family requesting cognitive neurology 
follow up given ongoing decline in overall mental status

#CODE: Full (presumed)
#CONTACT: ___ ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Mirtazapine 15 mg PO QHS 
2. Atorvastatin 20 mg PO QPM 
3. Donepezil 5 mg PO QHS 
4. Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg (1,500 
mg)-800 unit oral DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Atorvastatin 20 mg PO QPM  
3.  Caltrate 600 + D (calcium carbonate-vitamin D3) 600 mg 
(1,500 mg)-800 unit oral DAILY  
4.  Donepezil 5 mg PO QHS  
5.  Mirtazapine 15 mg PO QHS  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
====================
Stroke

Secondary Diagnosis
====================
Dementia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ on ___.

WHY WAS I ADMITTED?
- You had a stroke.

WHAT HAPPENED WHILE I WAS ADMITTED?
- Our stroke neurologists saw you and in consultation with your 
family decided that medications were not needed to treat your 
stroke.
- You were seen by our geriatricians, who felt that you were 
safe to return home,

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Take all of your medications, as prescribed.
- Follow up with your doctors, as listed elsewhere in this 
packet.
- Return to the ED if you have new or worsening symptoms 
including inability to speak or walk, facial droop, or 
difficulty swallowing.

It was a pleasure caring for you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___